US05892098
1b) 3-(3-cyclopentyloxy methoxyphenyl)-3-ethynylcyclohexan-1-one
A mixture of potassium fluoride (900 mg, 15.6 mmol) and 3-(3-cyclopentyloxy-4-methoxyphenyl)3-trimethylsilylethynyl cyclohexan-1-one (0.3 g, 0.78 mmol) was stirred in dry N,N-dimethylformamide (3 mL) under an argon atmosphere. After 18 h, the solvent was removed in vacuo, the residue was partitioned between water and ethyl acetate, the aqueous layer was extracted twice with ethyl acetate, the combined extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 4:1 hexanes/ethyl acetate provided a clear colorless oil . Anal. (C20H24O3 ·1/10H2O) calcd: C 76.45,H 7.76; found: C 76.32,H 7.60.

reactant | potassium fluoride | 15.6 mmol, 900 mg | [F-].[K+]
reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl)3-trimethylsilylethynyl cyclohexan-1-one | 0.78 mmol, 0.3 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CC(CCC1)=O)C#C[Si](C)(C)C | C23H32O3Si
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-(3-cyclopentyloxy methoxyphenyl)-3-ethynylcyclohexan-1-one | C1(CCCC1)OCOC=1C=C(C=CC1)C1(CC(CCC1)=O)C#C | C20H24O3
